US05798337
To a 0° C. solution of 5.00 g (24.6 mmol) of BOC-4-aminobutyric acid in 75 mL of dry THF, was added 12.2 mL (197 mmol) of methyl iodide followed by 2.95 g (73.8 mmol, 60% dispersion in mineral oil) of sodium hydride, portionwise. The reaction was rapidly stirred at room temperature for 12 h and quenched by the careful addition of water. The mixture was partitioned between ether and water, and the organic phase extracted with 1N aq sodium bicarbonate. The combined aqueous phases were chilled and acidified to pH 3 with 1N sodium hydrogen sulfate, then extracted with two portions of ethyl acetate. The combined organics were washed successively with water, 5% aq sodium thiosulfate, water, brine, and then dried over anhydrous magnesium sulfate. Concentration in vacuo afforded 5.00 g (94%) of BOC-4-(N-methylamino)butyric acid. 1H NMR: (300 MHz, CDCl3) δ3.28 (2H, bt, J=7 Hz), 2.84 (3H, s), 2.36 (2H, t, J=7.5 Hz), 1.85 (2H, m), 1.45 (9H, s).

reactant | BOC-4-aminobutyric acid | 24.6 mmol, 5.00 g | C(=O)(OC(C)(C)C)C(C(=O)O)CCN | C9H17NO4
reactant | methyl iodide | 197 mmol, 12.2 mL | CI | CH3I
reactant | sodium hydride | 73.8 mmol, 2.95 g | [H-].[Na+]
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | BOC-4-(N-methylamino)butyric acid | 5.00 g, 94% | C(=O)(OC(C)(C)C)C(C(=O)O)CCNC | C10H19NO4
